US06054470
A mixture of 1-(4-methoxybenzyl)-4-vinyl-3-nitro-2-pyridone (0.21 g, 0.73 mmol) in ethanol (30 mL) with 10% Pd/C (0.26 g) was hydrogenated at 40 psi in a Parr apparatus for 4 hours. The catalyst was removed by filtration and the solvent was evaporated to give 3-amino-1-(4-methoxybenzyl)-4-ethyl-2-pyridone (0.17 g, 0.56 mmol, 76%).

reactant | 1-(4-methoxybenzyl)-4-vinyl-3-nitro-2-pyridone | 0.73 mmol, 0.21 g | COC1=CC=C(CN2C(C(=C(C=C2)C=C)[N+](=O)[O-])=O)C=C1 | C15H14N2O4
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.26 g | [Pd] | Pd
product | 3-amino-1-(4-methoxybenzyl)-4-ethyl-2-pyridone | 0.56 mmol, 0.17 g, 76% | NC=1C(N(C=CC1CC)CC1=CC=C(C=C1)OC)=O | C15H18N2O2
